Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril
 
Attending: ___.
 
Chief Complaint:
abdominal pain, jaundice
 
Major Surgical or Invasive Procedure:
ERCP ___ unsuccessful due to retained food in the stomach
ERCP ___ removed 2 stones 
 
History of Present Illness:
___ with hx of CCY, htn presenting with abdominal pain and 
jaundice. Pt describes onset of ___, nonradiating, burning 
epigastric pain on ___, while in ___, where he has 
another home. Symptoms seemed to be worse at night, worse with a 
glass of scotch one evening, without associated nausea, 
vomiting, weight loss. He also noted early satiety. He presented 
to ___ on ___ and again ___, at which 
time CT abd was reportedly unrevealing, ?ulcers, and was 
discharged on both occasions with GI medications. He returned to 
___ on ___, and was evaluated by PCP. He believed that he 
noted hematuria while at the airport en route home; for this 
reason, he was referred to GI and urology after evaluation in 
___ labs revealed ALT/AST 611/273, alk phos 246, Tbili 
9.8, Dbili 5.9; he was advised to present to ___ for further 
evaluation. He notes the onset of jaundice 2 days prior to 
admission, with darkening of urine and lightening of stool 
color. Last BM within 24 hours of admission, nonbloody.

In the ___ ED:
VS 99.8->98.1, 95->78, 172/81->142/87, 98% RA
Labs notable for WBC 7.8, BMP unremarkalble
ALT/AST 697/323, Tbili 9.5, Dbili 7.1, albumin 4.6
RUQ u/s with mild intra and extrahepatic biliary dilation, s/p 
CCY, steatosis
Received 1L NS, unasyn 3 gm x1
ERCP consult ordered

ROS: All else negative
 
Past Medical History:
s/p R inguinal hernia
s/p CCY
Hypertension
Hyperlipidemia
Hypothyroid
BPH
 
Social History:
___
Family History:
Father died with brain tumor in his ___

 
Physical Exam:
VS: 97.9, 150/85, 86, 100% RA
Gen: Very pleasant male, lying in bed, NAD, jaundiced
HEENT: PERRL, icteric sclera, clear oropharynx, MMM
Neck: supple, no cervical or supraclavicular adenopathy
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: obese, soft, trace TTP at ___, no rebound or 
guarding, negative ___ sign, no hepatomegaly
GU: No foley
Ext: WWP, no c/c/e
Neuro: grossly intact

Discharge Physcial Exam:
VS: 97.2, 113/66, 54, 98% RA
Gen: Very pleasant male, lying in bed, NAD, improving jaundice
HEENT: icteric sclera but less than on admission, clear 
oropharynx, MMM
Neck: supple
CV: RRR, no m/r/g
Lungs: CTAB, no wheeze or rhonchi
Abd: obese, soft, NT, no rebound or guarding, negative ___ 
sign, no hepatomegaly
GU: No foley
Ext: WWP, no c/c/e
Neuro: grossly intact

 
Pertinent Results:
___ 09:04PM   GLUCOSE-104* UREA N-16 CREAT-1.2 SODIUM-138 
POTASSIUM-3.5 CHLORIDE-95* TOTAL CO2-32 ANION GAP-15
___ 09:04PM   estGFR-Using this
___ 09:04PM   ALT(SGPT)-697* AST(SGOT)-323* ALK PHOS-264* 
TOT BILI-9.5* DIR BILI-7.1* INDIR BIL-2.4
___ 09:04PM   ALBUMIN-4.6
___ 09:04PM   WBC-7.8 RBC-5.17 HGB-15.5 HCT-46.2 MCV-89 
MCH-30.0 MCHC-33.5 RDW-12.8 RDWSD-41.7
___ 09:04PM   NEUTS-72.1* LYMPHS-15.3* MONOS-10.5 EOS-1.0 
BASOS-0.6 IM ___ AbsNeut-5.65 AbsLymp-1.20 AbsMono-0.82* 
AbsEos-0.08 AbsBaso-0.05
___ 09:04PM   PLT COUNT-212

*** UNAPPROVED (PRELIMINARY) REPORT *** !! WET READ !!  
EXAMINATION: LIVER OR GALLBLADDER US (SINGLE ORGAN) 
  
INDICATION: History: ___ with abnormal LFTs, epigastric/flank 
pain, report of 
hematuria. // eval obstruction, hydronephrosis 
  
TECHNIQUE: Grey scale and color Doppler ultrasound images of the 
abdomen were 
obtained. 
  
COMPARISON: None. 
  
FINDINGS:  
  
LIVER: The liver is diffusely echogenic. The contour of the 
liver is smooth.  
There is a focal hypoechoic area near the hepatic hilum which is 
likely a 
focal fatty sparing.. The main portal vein is patent with 
hepatopetal flow.  
There is no ascites. 
  
BILE DUCTS: There is no intrahepatic biliary dilation. The CHD 
measures 9 mm. 
  
GALLBLADDER: The patient is status post cholecystectomy. 
  
PANCREAS: The imaged portion of the pancreas appears within 
normal limits, 
without masses or pancreatic ductal dilation, with portions of 
the pancreatic 
tail obscured by overlying bowel gas. 
  
SPLEEN: Normal echogenicity, measuring 11.5 cm. 
  
KIDNEYS: The right kidney measures 11.1 cm. The left kidney 
measures 12.6 cm. 
Normal cortical echogenicity and corticomedullary 
differentiation is seen 
bilaterally. There is no evidence of masses, stones, or 
hydronephrosis in the 
kidneys. 
  
RETROPERITONEUM: The visualized portions of aorta and IVC are 
within normal 
limits. 
  
IMPRESSION: 
  
  
1. There is mild dilation of intrahepatic bile ducts and the 
common bile duct. 
Patient is post cholecystectomy. 
2. Echogenic liver consistent with steatosis. Other forms of 
liver disease and 
more advanced liver disease including steatohepatitis or 
significant hepatic 
fibrosis/cirrhosis cannot be excluded on this study. 

Findings: 
Esophagus: Limited exam of the esophagus was normal 
 
Stomach: Limited exam of the stomach was normal 
 
Duodenum: Limited exam of the duodenum was normal 
 
Major Papilla: Normal major papilla 

Cannulation:  Cannulation of the biliary duct was successful and 
deep with a sphincterotome using a free-hand technique. Contrast 
medium was injected resulting in complete opacification.  
 

Fluoroscopic interpretation. Biliary Tree: A single 4 mm round 
stone that was causing partial obstruction was seen at the lower 
third of the common bile duct. There was post-obstructive 
dilation. There was mild dilation of the CHD, and intrahepatics, 
which were all well visualized. The cystic duct did not opacify. 
I supervised the acquisition and interpretation of the 
fluoroscopic images. The quality of the images was good.  

Pancreas: Partial opacification of the PD was normal  

Procedures: A sphincterotomy was performed in the 12 o'clock 
position using a sphincterotome over an existing guidewire.
The stone, along with a small amount of sludge, was extracted 
successfully using a balloon.
Cold forceps biopsies were performed for histology at the random 
stomach (rule out H.pylori, at referring team request).  
 

Impression: •Successful biliary cannulation was achieved with 
the sphincterotome
•A single 4 mm round stone that was causing partial obstruction 
was seen at the lower third of the common bile duct. There was 
post-obstructive dilation. There was mild dilation of the CHD, 
and intrahepatics, which were all well visualized. The cystic 
duct did not opacify.
•Successful biliary sphincterotomy was performed.
•The stone, along with a small amount of sludge, was extracted 
successfully using a balloon.
•Completion cholangiogram was normal
•Cold forceps biopsies were performed for histology at the 
stomach (rule out H.pylori, at referring team request).  
•Otherwise normal ERCP to ___ part of duodenum
 

Recommendations: •NPO overnight with aggressive IV hydration 
with LR at 200 cc/hr
•If no abdominal pain in the AM, advance diet to clear liquids 
and then advance as tolerated.
•No aspirin, plavix, NSAIDS, coumadin for 5 days
•Follow-up biopsy results
 

Discharge Labs:
___ 08:25AM BLOOD WBC-6.1 RBC-4.75 Hgb-14.1 Hct-42.6 MCV-90 
MCH-29.7 MCHC-33.1 RDW-12.8 RDWSD-42.4 Plt ___
___ 08:25AM BLOOD ___ PTT-36.8* ___
___ 08:25AM BLOOD Glucose-101* UreaN-18 Creat-1.1 Na-138 
K-3.3 Cl-97 HCO3-29 AnGap-15
___ 08:25AM BLOOD ALT-430* AST-201* AlkPhos-307* 
TotBili-4.8*
 
Brief Hospital Course:
___ with HTN, HLD, hypothyroidism, s/p CCY who presents with RUQ
abdominal pain, elevated LFTs, and signs of biliary obstruction
on RUQ US, had ERCP on ___ which was unsuccessful due to 
retained food in the stomach. ERCP was done on ___ morning and 
two stones were removed. 

Patient went for ERCP on ___ but it was unsuccessful due to
retained food in the stomach. He continued to have mild RUQ
discomfort radiating to the right flank that comes and goes in
waves. Had been taking oxycodone. ERCP done on ___ removed two 
stones. 

# RUQ pain
# Elevated liver enzymes
# Jaundice
ERCP on ___ was unsuccessful due to retained food in the
stomach. Patient reports that during his trip to ___, CT a/p did
not demonstrate biliary obstruction and his LFTs were normal,
suggesting a new obstructive process. ERCP unable to be 
performed
on ___. Given clear liquids and IV fluids on ___. ERCP
performed on ___ with stone removed. Continued on IV fluids on 
___ and advanced to regular diet on ___. 

# Gastritis
Patient diagnosed based on ER visit in ___ during which time he
says CT a/p showed inflammation of the stomach. He was started 
on
medical management with plans to f/u with GI. He has a history 
of
H pylori infection in ___. He saw ___ GI on ___ who
recommended increasing PPI and getting urgent endoscopy with
biopsy for H pylori.
-continue home PPI; discontinued  sucralafate on ___

# Hematuria
Pt had gross hematuria coming back from ___ and was referred to
urology. CT a/p reportedly negative for kidney stones in ___. No
hematuria at present. urine culture with no growth and urine 
with no blood and 2 RBCs, trace protein, and urobilinogen noted, 
he will need follow-up with urology as outpatient. 

# Fatty liver
Transitional issue for outpatient providers. Pt counseled on 
weight loss.

# HTN
Continue home amlodipine and HCTZ.

# Hypothyroidism
Continue home levothyroxine.

#F/U with GI, PCP, and urology as outpatient. 

Greater than 30 minutes was spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
1. Levothyroxine Sodium 175 mcg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Amlodipine 10 mg PO DAILY 
4. Hydrochlorothiazide 25 mg PO DAILY 
5. Aspirin 81 mg PO DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Hyoscyamine 0.125 mg PO BID:PRN IBS flare 
8. Pantoprazole 40 mg PO Q12H 
9. Sucralfate 1 gm PO QID 

 
Discharge Medications:
1. Amlodipine 10 mg PO DAILY 
2. Atorvastatin 10 mg PO QPM 
3. Hydrochlorothiazide 25 mg PO DAILY 
4. Levothyroxine Sodium 175 mcg PO DAILY 
5. Pantoprazole 40 mg PO Q12H 
6. Vitamin D 1000 UNIT PO DAILY 
7. Aspirin 81 mg PO DAILY 
8. Hyoscyamine 0.125 mg PO BID:PRN IBS flare 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Jaundice
Abdominal pain
Biliary obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
You were admitted to ___ for rising liver enzymes and 
suspicion for bile duct obstruction. You had an ERCP which 
removed two stones. You were able to tolerate a diet and did 
well. Please follow up with your PCP. 
 
Followup Instructions:
___